US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate (I-2H)
To a solution of 200 mg of 7-amino-3-[3-(4-carbamoylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate hydrochloride (E isomer) in 5 ml of 50% aqueous acetone was added portionwise 190 mg of 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride [prepared according to the procedure described in published Japan patent application (Kokai) No. 57-24389 (2/8/82)], and the mixture was adjusted to pH 6.5-7.0 with 2N Na2CO3 (about 1 ml). The reaction mixture was stirred at 10° C. for an hour, acidified to pH 2 with 1N HCl and evaporated in vacuo. The residue was filtered and the filtrate was chromatographed on a column of HP-20, which was eluted with 500 ml of water and 25% aqueous isopropanol, successively. Fractions containing the desired product were combined and evaporated under reduced pressure. The oily residue was treated with isopropanol (20 ml) to give 263 mg (93%) of the title compound (I-2H). M.p. 170° C. (dec.).

reactant | 7-amino-3-[3-(4-carbamoylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate hydrochloride | 200 mg | Cl.NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O
reactant | 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride | 190 mg | Cl.C(C)ON=C(C(=O)Cl)C1=NSC(=N1)N
reactant | Na2CO3 | 2N, about 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate | 263 mg, 93% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)=NOCC | C22H22N8O6S2
